data/oMe_Silver.jsonl
{"reaction_id": "NR-125_1-C","name": "Kochi Reaction","level": "medium","reactants_smiles": ["C(CC)(=O)O","CC(=O)O[Pb](OC(C)=O)(OC(C)=O)OC(C)=O","[Li+].[Cl-]"],"products_smiles": ["C(C)(Cl)"],"conditions": "","mechanism": [{"step": 1,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(CC)(=O)O[Pb](OC(=O)C)(OC(=O)C)OC(=O)C","rationale": "Lead(IV) acetate acts as a strong electrophile, coordinating to the carboxylate oxygen; this facilitates displacement of acetate ligands due to Pb’s high oxidation state and strong affinity for oxygen donors."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(CC)(=O)O(Cl)","rationale": "Chloride, a good nucleophile under these conditions, attacks the activated acyl intermediate, displacing the lead group due to its excellent leaving group ability and forming the more reactive acyl hypochlorite."},{"step": 3,"type": "cleavage","subtype": "homolytic_cleavage","intermediate_smiles": "C[C]","rationale": "The weak O–Cl bond in the acyl hypochlorite undergoes homolytic cleavage under thermal or light activation, favored by the stability of the resulting alkyl radical and CO₂ extrusion."},{"step": 4,"type": "substitution","subtype": "radical_substitution","intermediate_smiles": "C(C)(Cl)","rationale": "The alkyl radical rapidly reacts with chlorine radical, driven by the high reactivity of radicals and the formation of a strong C–Cl bond, completing the radical substitution."}],"description": "The Kochi reaction proceeds via lead(IV) acetate activation of the carboxylic acid, chloride substitution to form an acyl hypochlorite, homolytic cleavage to generate an alkyl radical, and radical chlorination to yield the alkyl chloride product."}
{"reaction_id": "NR-339_1-c1ccc(OC)cc1_2-C_3-c1ccc(C(F)(F)F)cc1","level": "hard","name": "Rupe Rearrangement","reactants_smiles": ["C#CC(O)(c1ccc(OC)cc1)C(C)c1ccc(C(F)(F)F)cc1"],"products_smiles": ["CC(=O)C(=C(C)c1ccc(C(F)(F)F)cc1)c1ccc(OC)cc1"],"conditions": "Acid (e.g., H2SO4, Formic Acid)","mechanism_step_nums": 8,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C#CC([OH2+])(c1ccc(OC)cc1)C(C)c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "Protonation of the hydroxyl increases its leaving group ability by converting OH into water, favored under strong acid due to the high basicity of oxygen."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C#C[C+](c1ccc(OC)cc1)C(C)c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "Heterolytic cleavage of the C–O bond occurs because water is an excellent leaving group and the resulting carbocation is stabilized by the adjacent propargyl system."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C#CC(=C(C)c1ccc(C(F)(F)F)cc1)c1ccc(OC)cc1","step_weight": 0,"rationale": "Proton elimination forms an allene, driven by the stability from cumulated double bonds and relief of carbocation instability."},{"step": 4,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C=[C+]C(=C(C)c1ccc(C(F)(F)F)cc1)c1ccc(OC)cc1","step_weight": 0,"rationale": "Electrophilic addition to the allene occurs at the less substituted carbon to generate a more substituted, resonance-stabilized allylic carbocation."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C=C([OH2+])C(=C(C)c1ccc(C(F)(F)F)cc1)c1ccc(OC)cc1","step_weight": 0,"rationale": "Water adds to the carbocation center because the cation is highly electrophilic and water is abundant under acidic aqueous conditions."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C=C(O)C(=C(C)c1ccc(C(F)(F)F)cc1)c1ccc(OC)cc1","step_weight": 0,"rationale": "Deprotonation of the oxonium intermediate restores the neutral alcohol, favored by the stability of the C–OH bond."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[OH+])(C)C(=C(C)c1ccc(C(F)(F)F)cc1)c1ccc(OC)cc1","step_weight": 0,"rationale": "Protonation of the alcohol oxygen activates it for tautomerization by increasing the electrophilicity of the adjacent carbon."},{"step": 8,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "CC(=O)C(=C(C)c1ccc(C(F)(F)F)cc1)c1ccc(OC)cc1","step_weight": 0,"rationale": "Proton elimination from the α-carbon leads to the conjugated enone, favored thermodynamically by extended π-conjugation."}],"description": "Under strong acid, the propargyl tertiary alcohol undergoes protonation to activate the hydroxyl as a leaving group, forming a stabilized carbocation. Rearrangement and addition steps proceed via resonance-stabilized cationic intermediates, ultimately yielding the α,β-unsaturated ketone through tautomerization and elimination."}
